US07282501B2
A solution of 4-(3-bromo-propoxy)-biphenyl (291 mg, 1.00 mmol; Preparation 12) and 3-[2-(benzoylamino-methyl)-4-hydroxy-phenyl]-propionic acid tert-butyl ester (320 mg, 0.90 mmol; Preparation 21) in DMF (5 mL) was treated with K2CO3 (100 mg) and heated at 60° C. for 48 h. The reaction mixture was diluted with water (50 mL) and extracted with EtOAc (3×20 mL). The combined organics were dried (Na2SO4), concentrated, and purified using silica gel chromatography (10-30% EtOAc/hexanes) to give 3-{2-(benzoylaminomethyl)-4-[3-(biphenyl-4-yloxy)propoxy]phenyl}propionic acid tert-butyl ester (450 mg). This material was treated with a mixture of CH2Cl2 (1.0 mL)/TFA (0.8 mL)/water (0.1 mL) at ambient temperature for 2 h. The reaction mixture was concentrated and dried under vacuum to afford the title product as a white solid (380 mg, 75%). MS (ES) m/e 510.1 (M+1).

reactant | 4-(3-bromo-propoxy)-biphenyl | 1.00 mmol, 291 mg | BrCCCOC1=CC=C(C=C1)C1=CC=CC=C1 | C15H15BrO
reactant | 3-[2-(benzoylamino-methyl)-4-hydroxy-phenyl]-propionic acid tert-butyl ester | 0.90 mmol, 320 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CNC(C1=CC=CC=C1)=O)=O | C21H25NO4
reactant | K2CO3 | 100 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 3-{2-(benzoylaminomethyl)-4-[3-(biphenyl-4-yloxy)propoxy]phenyl}propionic acid tert-butyl ester | 450 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCCOC1=CC=C(C=C1)C1=CC=CC=C1)CNC(C1=CC=CC=C1)=O)=O | C36H39NO5
